US07855194B2
Step 1: 4-(5-Ethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester
A mixture of 2-chloro-5-ethylpyrimidine (5.0 g, 35.1 mmol, 1.0 equiv; commercially available), ethyl 4-amino-1-piperidine carboxylate (7.2 g, 42.1 mmol, 1.2 equiv) and triethylamine (5.3 g, 52.7 mmol, 1.5 equiv) in ethylene glycol (60 mL) was heated by microwave irradiation to 200° C. for 15 min. To the crude reaction mixture was added water (120 mL) and the solution extracted with dichloromethane (3×20 mL). The combined organic layers were washed with water (20 mL) and a sat. solution of sodium chloride (20 mL), dried over MgSO4 and evaporated under reduced pressure to give an amber oil. The residue was purified by column chromatography on silica eluting with heptane/ethyl acetate (1:1) followed by recrystallization from heptane (200 mL) to afford 4.53 g (46%) of the title compound as a white solid. MS (ISP): 279.3 [M+H]+.

reactant | 2-chloro-5-ethylpyrimidine | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | ethyl 4-amino-1-piperidine carboxylate | 42.1 mmol, 7.2 g, 1.2 equiv | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | triethylamine | 52.7 mmol, 5.3 g, 1.5 equiv | C(C)N(CC)CC | C6H15N
reactant | water | 120 mL | O | H2O
solvent | ethylene glycol | 60 mL | C(CO)O | C2H6O2
product | 4-(5-Ethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | 4.53 g, 46% | C(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)CC | C14H22N4O2
